US07820662B2
3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]-1-(hydroxymethyl)cyclobutanol
To a solution of 7-[8-chloro-3-(3-methylenecyclobutyl)imidazo[1,5-a]pyrazin-1-yl]-2-phenylquinoline (3.2 g, 7.6 mmol) in THF-water mixture (100 mL, 3:1) were added NMO (1.94 g, 8.3 mmol) and potassium osmate dihydrate (0.14 g, 0.4 mmol). The reaction mixture was stirred at rt. After 20 h the reaction was quenched with Na2SO3 (4.8 g, 38 mmol). The reaction mixture was diluted with EtOAc (250 mL) and washed with brine (2×100 mL). Part of the solvent was removed and the organic phase was passed through celite, dried over anhydrous Na2SO4 and concentrated in vacuo. The material was carried on to the subsequent oxidation without further purification.

reactant | 7-[8-chloro-3-(3-methylenecyclobutyl)imidazo[1,5-a]pyrazin-1-yl]-2-phenylquinoline | 7.6 mmol, 3.2 g | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)=C | C26H19ClN4
reactant | NMO | 8.3 mmol, 1.94 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Na2SO3 | 38 mmol, 4.8 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | THF water | 100 mL | C1CCOC1.O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]-1-(hydroxymethyl)cyclobutanol | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)(O)CO | C26H21ClN4O2
